US09371262B2
rac-(E)-14,16-Dimethyloxacyclohexadec-13-en-2-one
Following the general procedure as described in Example 1, 2-(prop-1-en-2-yl)cyclododecanone (2.22 g, 10 mmol), acetaldehyde (0.53 g, 12 mmol) and boron trifluoride etherate (0.14 g, 1.0 mmol) in 1,2-dichloroethane (10 mL) were reacted to give the title product as a colorless liquid (2.34 g, 88% yield. Mixture of E/Z isomers in a ratio of 8:1.

reactant | 2-(prop-1-en-2-yl)cyclododecanone | 10 mmol, 2.22 g | C=C(C)C1C(CCCCCCCCCC1)=O | C15H26O
reactant | acetaldehyde | 12 mmol, 0.53 g | C(C)=O | C2H4O
reactant | boron trifluoride etherate | 1.0 mmol, 0.14 g | B(F)(F)F.CCOCC
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | rac-(E)-14,16-Dimethyloxacyclohexadec-13-en-2-one | 88% yield | C\C\1=C/CCCCCCCCCCC(OC(C1)C)=O | C17H30O2
